US05859248
34.7 g of (3S,4aS,8aS)-2-[(4S,5R)-4-benzyl-2-oxo-oxazolidin-5-yl methyl]-N-tert.-butyl-decahydro-isoquinoline-3-carboxamide-p-nitrobenzenesulphonate were divided between 110 ml of ethyl acetate and 110 ml of saturated sodium bicarbonate. The aqueous layer was extracted with ethyl acetate and the ethyl acetate extracts washed with 110 ml of saturated sodium bicarbonate and with water. The organic extracts were evaporated and the residue diluted with 55 ml of ethanol and combined with stirring with a solution of 11.0 g of sodium hydroxide in 55 ml of water. The mixture was refluxed for 5 hours, diluted with 55 ml of water and cooled to room temperature. The suspension was filtered and the residue washed with water until the filtrate was neutral. The residue was evaporated and yielded 20.7 g (93%) 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.-butyl-decahydro-(4aS, 8aS)-isoquinoline-3(S)-carboxamide, melting point 175°-176°.

reactant | (3S,4aS,8aS)-2-[(4S,5R)-4-benzyl-2-oxo-oxazolidin-5-yl methyl]-N-tert.-butyl-decahydro-isoquinoline-3-carboxamide p-nitrobenzenesulphonate | 34.7 g | C(C1=CC=CC=C1)[C@@H]1NC(O[C@@H]1CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)=O.[N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium bicarbonate | 110 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.-butyl-decahydro-(4aS, 8aS)-isoquinoline-3(S)-carboxamide | 20.7 g, 93% | N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C24H39N3O2
